US07319099B2
Preparation of 2-Benzyloxy-5-methanesulfonyl-benzoic acid
The title compound was prepared in analogy to example 2.10 from methyl 5-(methanesulfonyl)salicylate and benzylalcohol. MS (m/e): 305.3 (M−H, 100%)

reactant | methyl 5-(methanesulfonyl)salicylate | CS(=O)(=O)C1=CC=C(C(C(=O)OC)=C1)O | C9H10O5S
reactant | benzylalcohol | C(C1=CC=CC=C1)O | C7H8O
product | 2-Benzyloxy-5-methanesulfonyl-benzoic acid | C(C1=CC=CC=C1)OC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)C | C15H14O5S
